US09193741B2
Synthesis of 2-(4-fluorophenyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidine
This compound was synthesized from tert-butyl 4-(5-amino-6-mercaptopyrimidin-4-yl)piperazine-1-carboxylate using 4-fluorobenzoic acid, yielding the title compound in 74% yield.

reactant | tert-butyl 4-(5-amino-6-mercaptopyrimidin-4-yl)piperazine-1-carboxylate | NC=1C(=NC=NC1S)N1CCN(CC1)C(=O)OC(C)(C)C | C13H21N5O2S
reactant | 4-fluorobenzoic acid | FC1=CC=C(C(=O)O)C=C1 | C7H5FO2
product | 2-(4-fluorophenyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidine | 74% yield | FC1=CC=C(C=C1)C=1SC=2N=CN=C(C2N1)N1CCNCC1 | C15H14FN5S
